US08207134B2
2) Synthesis of 2-trimethylsilanyl-naphthalene-1,4-dicarboxylic acid diisopropyl ester
Under a nitrogen stream, to a solution of tetramethylpiperidine (0.39 mL, 2.311 mmol) in THF (1.8 mL) was added a solution of n-butyllithium in n-hexane (2.67 M, 0.87 mL, 2.323 mmol) under ice cooling, and the resultant solution was stirred for 10 minutes at the same temperature. The solution was cooled to −78° C., and then chlorotrimethylsilane (2.47 mL, 19.325 mmol) and a solution of naphthalene-1,4-dicarboxylic acid diisopropyl ester (0.58 g, 1.931 mmol) in THF (2 mL) were added thereto. The temperature of the solution was raised over 1 hour to room temperature, and then to the solution was added saturated aqueous ammonium chloride to stop the reaction. The resultant mixture was twice extracted with dichloromethane. After drying the organic layer over anhydrous magnesium sulfate, solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:9)), to thereby obtain the titled compound (246 mg, 34%).

reactant | tetramethylpiperidine | 2.311 mmol, 0.39 mL | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 2.323 mmol, 2.67 M, 0.87 mL | CCCCCC | C6H14
reactant | chlorotrimethylsilane | 19.325 mmol, 2.47 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | naphthalene-1,4-dicarboxylic acid diisopropyl ester | 1.931 mmol, 0.58 g | C(C)(C)OC(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC(C)C | C18H20O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1.8 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-trimethylsilanyl-naphthalene-1,4-dicarboxylic acid diisopropyl ester | 246 mg, 34% | C(C)(C)OC(=O)C1=C(C=C(C2=CC=CC=C12)C(=O)OC(C)C)[Si](C)(C)C | C21H28O4Si
